US04640915
To a solution of 2-[(2R, 3S)-3-(1-methoxy-1-methylethyl)-4-oxoazetidin-2-yl]acetic acid (65.6 mg) in tetrahydrofuran (3.25 ml) was added carbonyldiimidazole (58.1 mg) at ambient temperature. After stirring for 6 hours at ambient temperature, magnesium salt of mono-p-nitrobenzyl malonate (179.7 mg) was added thereto and the resultant mixture was stirred overnight at ambient temperature. The solvent was distilled off and the residue was dissolved in ethyl acetate (10 ml) and filtered. The filtrate was washed in turn with 1N hydrochloric acid, water, 10% aqueous sodium bicarbonate, water, 5% aqueous citric acid, water and a saturated aqueous sodium chloride. After drying over magnesium sulfate, the ethyl acetate extract was filtered and evaporated in vacuo. The residue (101.2 mg) was chromatographed on silica gel (2 g) eluting with a mixture of methylene chloride and acetone (80:1 to 4:1) to give 4-nitrobenzyl 4-[(2R, 3S)-3-(1-methoxy-1-methyl-ethyl)-4-oxoazetidin-2-yl] -3-oxobutanoate (71.0 mg) as an amorphous solid.

reactant | 2-[(2R, 3S)-3-(1-methoxy-1-methylethyl)-4-oxoazetidin-2-yl]acetic acid | 65.6 mg | COC(C)(C)[C@@H]1[C@H](NC1=O)CC(=O)O | C9H15NO4
reactant | carbonyldiimidazole | 58.1 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | mono-p-nitrobenzyl malonate | 179.7 mg | C(CC(=O)[O-])(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | tetrahydrofuran | 3.25 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl 4-[(2R, 3S)-3-(1-methoxy-1-methyl-ethyl)-4-oxoazetidin-2-yl] -3-oxobutanoate | 71.0 mg | COC(C)(C)[C@@H]1[C@H](NC1=O)CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H22N2O7
